US06525042B1
Methyl 4-(2-aminopyridin-5-yl)benzoate
The resulting 4-(2-aminopyridin-5-yl)benzoic acid (684 mg) was dissolved in methanol (50 ml) at room temperature, followed by the addition of concentrated sulfuric acid (1 ml). After heating under reflux for 2 hours, the reaction mixture was made weakly alkaline with an aqueous solution of sodium bicarbonate. Water and ethyl acetate were added to the resulting mixture to separate the organic layer. The organic layer was then dried over anhydrous magnesium sulfate. The solvent was distilled off. Hexane was added to the residue for crystallization, whereby the title compound (243 mg, 23%) was obtained.

reactant | 4-(2-aminopyridin-5-yl)benzoic acid | 684 mg | NC1=NC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C12H10N2O2
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | Water | O | H2O
solvent | methanol | 50 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 4-(2-aminopyridin-5-yl)benzoate | NC1=NC=C(C=C1)C1=CC=C(C(=O)OC)C=C1 | C13H12N2O2
